US09290465B2
3-{4-[2-(4-Methanesulfonyl-phenyl)-ethyl]-phenyl}-isoxazol-4-ylamine
(3-{4-[2-(4-Methanesulfonyl-phenyl)-ethyl]-phenyl}-isoxazol-4-yl)-carbamic acid tert-butyl ester (88 mg, 0.2 mmol) was dissolved in dioxane (2 mL) and 4N HCl in dioxane (4 mL) was added dropwise. The reaction mixture was stirred at rt for 24.5 h and 3-{4-[2-(4-methanesulfonyl-phenyl)-ethyl]-phenyl}-isoxazol-4-ylamine hydrochloride (53 mg, 71%) was collected by filtration as a white solid. HRMS: 343.111 (M+1)

reactant | (3-{4-[2-(4-Methanesulfonyl-phenyl)-ethyl]-phenyl}-isoxazol-4-yl)-carbamic acid tert-butyl ester | 0.2 mmol, 88 mg | C(C)(C)(C)OC(NC=1C(=NOC1)C1=CC=C(C=C1)CCC1=CC=C(C=C1)S(=O)(=O)C)=O | C23H26N2O5S
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 3-{4-[2-(4-Methanesulfonyl-phenyl)-ethyl]-phenyl}-isoxazol-4-ylamine | CS(=O)(=O)C1=CC=C(C=C1)CCC1=CC=C(C=C1)C1=NOC=C1N | C18H18N2O3S
